US06060472
Preparation of 1-[1-(4-chlorophenyl)-1-phenylmethyl]-4-{3-[phenyl-(tetrahydropyran -2-yloxy)methyl]-[1,2,4]thiadiazol-5-yl}piperazine
To a solution of 3-[1-phenyl-1-(tetrahydropyran-2-yloxy)methyl]-5-chloro-[1,2,4] thiadiazole (1.56 g, 5.02 mmol) in DMF (25 mL) was added 1-(4-chlorobenzhydryl) piperazine (2.88 g, 10.04 mmol) followed by triethylamine (2.03 g, 20.08 mmol). The resulting mixture was stirred at room temperature for 2 days. Volatile materials were removed in vacuo and the residue was partitionned between dichloromethane and water. The organic layer was collected, dried (sodium sulfate), filtered and evaporated to dryness. The residue was purified by column chromatography on silica gel using a mixture of hexane and ethyl acetate (8/2) thereby affording 1 -[(4-chlorophenyl)phenylmethyl]-4-{3-[phenyl-(tetrahydropyran-2-yloxy)methyl]-[1,2,4]thiadiazol-5-yl}-piperazine (1.90 g, 67%) as a white solid and as a mixture of diastereoisomers. 1H-NMR (CDCl3) δ7.55 (d, J=7.8 Hz, 1H), 7.22-7.39 (m, 13H, Ar--H), 5.89 and 5.85 (s, 0.4H and 0.6H each, αH), 4.90 and 4.64 (t, J=3.2 Hz, 0.4H and 0.6H each, OCHO), 4.29 (m, 1H, CH-Ar), 3.60-4.05 (m, 1H, OCH2), 3.50 (m, 5H, 2CH2 +1H, OCH2), 2.49 (m, 4H, 2CH2), 1.50-1.94 (m, 6H, 3CH2).

reactant | 3-[1-phenyl-1-(tetrahydropyran-2-yloxy)methyl]-5-chloro-[1,2,4] thiadiazole | 5.02 mmol, 1.56 g | C1(=CC=CC=C1)C(OC1OCCCC1)C1=NSC(=N1)Cl | C14H15ClN2O2S
reactant | 1-(4-chlorobenzhydryl) piperazine | 10.04 mmol, 2.88 g | ClC1=CC=C(C(C2=CC=CC=C2)N2CCNCC2)C=C1 | C17H19ClN2
reactant | triethylamine | 20.08 mmol, 2.03 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 1-[1-(4-chlorophenyl)-1-phenylmethyl]-4-{3-[phenyl-(tetrahydropyran -2-yloxy)methyl]-[1,2,4]thiadiazol-5-yl}piperazine | ClC1=CC=C(C=C1)C(C1=CC=CC=C1)N1CCN(CC1)C1=NC(=NS1)C(OC1OCCCC1)C1=CC=CC=C1 | C31H33ClN4O2S
